US06277987B1
A solution of glycine t-butyl ester hydrochloride (10 g, 59.65 mmol) in 250 mL of dichloromethane is treated with benzophenoneimine (10.8 g, 59.6 mmol) at RT. After 16 h, the mixture is washed with brine, dried over anhydrous MgSO4 and concentrated to give benzhydrylideneaminoacetic acid t-butyl ester as a white solid (16.1 g, 91%).

reactant | glycine t-butyl ester hydrochloride | 59.65 mmol, 10 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | benzophenoneimine | 59.6 mmol, 10.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | benzhydrylideneaminoacetic acid t-butyl ester | 16.1 g, 91% | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
